US05506267
N(alpha)-(6,7-bis(palmitoyloxy)-4- thiaheptanoyl)ornitylglycylglycylglutamic acid hydrochloride
To N(alpha)-(6,7-bis(palmitoyloxy)-4-thiaheptanoyl)-N(delta)-(t-butyloxycarbonyl)ornitylglycylglycylglutamic acid di-t-butyl ester as obtained in Example 13 (180 mg), a 4N solution of hydrochloric acid (4 ml) in acetic acid was added, followed by stirring at room temperature for 17 hours. The solvent was distilled off to yield the title compound (150 mg, yield 100%) as a colorless crystal.

reactant | N(alpha)-(6,7-bis(palmitoyloxy)-4-thiaheptanoyl)-N(delta)-(t-butyloxycarbonyl)ornitylglycylglycylglutamic acid di-t-butyl ester | C(C)(C)(C)OC([C@@H](NC(CNC(CNC([C@@H](NC(CCSCC(COC(CCCCCCCCCCCCCCC)=O)OC(CCCCCCCCCCCCCCC)=O)=O)CCCNC(=O)OC(C)(C)C)=O)=O)=O)CCC(=O)OC(C)(C)C)=O | C65H119N5O14S
reactant | hydrochloric acid | 4 ml | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N(alpha)-(6,7-bis(palmitoyloxy)-4- thiaheptanoyl)ornitylglycylglycylglutamic acid hydrochloride | 150 mg, yield 100% | Cl.C(CCCCCCCCCCCCCCC)(=O)OC(CSCCC(=O)N[C@@H](CCCN)C(=O)NCC(=O)NCC(=O)N[C@@H](CCC(=O)O)C(=O)O)COC(CCCCCCCCCCCCCCC)=O | InChI=1S/C52H95N5O12S.ClH/c1-3-5-7-9-11-13-15-17-19-21-23-25-27-31-49(63)68-40-42(69-50(64)32-28-26-24-22-20-18-16-14-12-10-8-6-4-2)41-70-37-35-45(58)56-43(30-29-36-53)51(65)55-38-46(59)54-39-47(60)57-44(52(66)67)33-34-48(61)62;/h42-44H,3-41,53H2,1-2H3,(H,54,59)(H,55,65)(H,56,58)(H,57,60)(H,61,62)(H,66,67);1H/t42?,43-,44-;/m0./s1
